US05741785
2-Hydroxymethyl-1-(1-imidazolylmethyl)-7-trifluoromethylimidazo[1,2-a]quinoxalin-4(5H)-one
To a suspension of lithium aluminium hydride (400 mg, 10.5 mmol) in dry tetrahydrofuran (200 ml) was added 2-ethoxycarbonyl-1-(1-imidazolylmethyl)-7-trifluoromethylimidazo[1,2-a]quinoxalin-4(5H)-one (3.6 g, 8.8 mmol) in small portions. After 20 min. at 25° C. the temperature was raised to reflux for 2 h. The reaction mixture was cooled to room temperature, quenched with water and then filtered, The solvent was evaporated in vacuo and the residue dissolved in 20% sulphuric acid. The precipitate was filtered off and the liquid phase added potassium hydroxide to pH 11. The product was isolated by continuous liquid/liquid extraction (ethyl acetate) overnight to give 2.1 g (67%) of the title compound. M.p. 215° C.

reactant | lithium aluminium hydride | 10.5 mmol, 400 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-ethoxycarbonyl-1-(1-imidazolylmethyl)-7-trifluoromethylimidazo[1,2-a]quinoxalin-4(5H)-one | 8.8 mmol, 3.6 g | C(C)OC(=O)C=1N=C2N(C3=CC=C(C=C3NC2=O)C(F)(F)F)C1CC=1NC=CN1 | C18H14F3N5O3
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2-Hydroxymethyl-1-(1-imidazolylmethyl)-7-trifluoromethylimidazo[1,2-a]quinoxalin-4(5H)-one | 2.1 g, 67% | OCC=1N=C2N(C3=CC=C(C=C3NC2=O)C(F)(F)F)C1CC=1NC=CN1 | C16H12F3N5O2
